US05597826
7-(2,4-Dinitrophenylamino)-1-(4-methyl-1-piperazinyl)-naphthalene
A mixture of 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.05 g, 0.207 mmol) and 2,4-dinitrochlorobenzene (0.75 g, 0.373 mmol) in dry DMF (2 mL) was refluxed 2 hours. The solvent was removed in vacuo and the residue was taken up in methylene chloride. The organic phase was washed with saturated sodium bicarbonate and brine, dried over calcium sulfate and concentrated. The residue was recrystallized from ether to give 0.045g (54%) of the title compound: mp 153°-154° C. Analysis calculated for C21H21N5O4 ; C, 61.91; H, 5.20; N, 17.19. Found: C, 61.42; H, 5.10; N, 16.79.

reactant | 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.207 mmol, 0.05 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | 2,4-dinitrochlorobenzene | 0.373 mmol, 0.75 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-(2,4-Dinitrophenylamino)-1-(4-methyl-1-piperazinyl)-naphthalene | 0.045g, 54% | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C21H21N5O4
